US08835470B2
A mixture of ethyl 5-phenylisoxazole-3-carboxylate (406 mg, 1.87 mmol) and N-iodosuccinimide (505 mg, 2.24 mmol) in trifluoroacetic acid (10 mL) was stirred at room temperature for 1.5 h. The volatiles were removed under reduced pressure, and the residue was partitioned between ethyl acetate (50 mL) and water (50 mL). The organic layer was washed with a 1N aqueous solution of sodium hydroxide (50 mL), washed with a 2.5% aqueous solution of sodium bisulfate (50 mL), washed with brine (50 mL), and dried over anhydrous magnesium sulfate. Concentration under reduced pressure afforded ethyl 4-iodo-5-phenylisoxazole-3-carboxylate (641 mg, 1.87 mmol, 100% yield) as a light yellow oil. The compound had an HPLC retention time=3.36 minutes (YMC-Combi 4.6×50 mm S-5 ODS column) eluting with 10-90% aqueous methanol+0.2% phosphoric acid over a 4 minute gradient. MS:(M+H)=343.97. 1H-NMR (400 MHz, CDCl3) δ ppm 1.47 (t, J=7.1 Hz, 3H), 4.50 (q, J=7.0Hz, 2H), 7.52-7.56 (m, 3H), and 8.05 (m, 2H).

reactant | ethyl 5-phenylisoxazole-3-carboxylate | 1.87 mmol, 406 mg | C1(=CC=CC=C1)C1=CC(=NO1)C(=O)OCC | C12H11NO3
reactant | N-iodosuccinimide | 2.24 mmol, 505 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 4-iodo-5-phenylisoxazole-3-carboxylate | 1.87 mmol, 641 mg, 100% yield | IC=1C(=NOC1C1=CC=CC=C1)C(=O)OCC | C12H10INO3
